datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15](=[C:16][C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:16](=[C:15]([H:19])[H:20])[C:17](=[C:18]([H:22])[H:23])[H:21],22.1752
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[H:19]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:13])[H:19])[H:12])([H:9])([H:10])[H:11],16.8615
[O:0]([O:1][C:2]([C:3]([C:4]([C:5]([C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11])[H:9]>>[C:2](=[C:3]([C:4]([C:5]([C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11].[O:0]([O:1])[H:9],63.1784
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[O:13]([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[O:13][H:15])([H:4])([H:5])[H:6].[H:14],174.549
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([S:9][H:14])[H:13])([H:10])([H:11])[H:12]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:8]([C:7]([H:10])([H:11])[H:12])([S:9][H:14])[H:13],34.7272
[O:0]=[C:1]([c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8].[S:14]([H:15])[H:16]>>[O:0]([C:1]([c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])[S:14][H:16])[H:15],146.231
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25]([C:26]([C:27]([H:32])([H:33])[H:34])[C:28]([H:35])([H:36])[H:37])([H:29])([H:30])[H:31]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:18][C:26]([C:25]([H:29])([H:30])[H:31])([C:27]([H:32])([H:33])[H:34])[C:28]([H:35])([H:36])[H:37],29.288
[C:16](=[C:17]([H:19])[H:20])[H:18].[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:9])[H:10])[H:8]>>[H:9][C:16](=[C:17]([H:19])[H:20])[H:18].[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])[H:8],-3.3472
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[O:12][H:13]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])[H:5].[H:4][O:12][H:13],4.6618128
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23]([C:24]([C:25]([H:30])([H:31])[H:32])[C:26]([H:33])([H:34])[H:35])([H:27])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[C:24]([C:23]([H:27])([H:28])[H:29])([C:25]([H:30])([H:31])[H:32])[C:26]([H:33])([H:34])[H:35])[H:14])[H:13])([H:11])[H:12],14.4348
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[S:13][H:20])[H:16])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[S:13][H:20],55.6472
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([O:8][O:9])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0]([H:2])([H:3])[H:4].[H:1][O:9][O:8][C:7]([C:6]([C:5]([H:10])([H:11])[H:12])([H:13])[H:14])([H:15])[H:16],103.09376
[C:0]1([H:3])([H:4])[C:1]([H:5])([H:6])[C:2]1([H:7])[H:8].[Cl:9]>>[C:0]1([H:4])[C:1]([H:5])([H:6])[C:2]1([H:7])[H:8].[H:3][Cl:9],17.2899
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11](#[C:12][C:13]([C:14]([H:17])([H:18])[H:19])[C:15]([H:20])([H:21])[H:22])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[H:7])([H:6])[C:13]([C:12]#[C:11][H:16])([C:14]([H:17])([H:18])[H:19])[C:15]([H:20])([H:21])[H:22])[H:5],36.61
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8](=[S:9])[H:10]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:8](=[S:9])[H:10],62.3416
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18]([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[C:18]([H:19])([H:20])[H:21])[H:8],18.3259
[C:0](#[C:1][H:3])[H:2].[C:4](=[C:5]([C:6]([C:7]([H:12])([H:13])[H:14])[C:8]([H:15])([H:16])[H:17])[H:11])([H:9])[H:10]>>[C:0](=[C:1][H:3])([H:2])[C:6]([C:5](=[C:4]([H:9])[H:10])[H:11])([C:7]([H:12])([H:13])[H:14])[C:8]([H:15])([H:16])[H:17],49.5804
